US07612084B2
5-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(4-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)phenyl]ethyl}amino)ethyl]benzene-1,3-diol
4-{4-[4-(2-{[(2R)-2-[3,5-bis(benzyloxy)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl]amino}ethyl)phenoxy]butyl}-2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenol (Preparation 33, 720 mg, 0.76 mmol), ammonium formate (960 mg, 15.0 mmol) and 20% palladium hydroxide on carbon (110 mg) were mixed in methanol (8 ml) and stirred at 70° C. for 1 hour under nitrogen. Further ammonium formate (300 mg, 4.75 mmol) and 20% palladium hydroxide on carbon (30 mg) were then added and heating continued at 70° C. for further 1 hour. Reaction mixture was then cooled and filtered, the filtrate was collected and the solvent removed in vacuo. The residue was dissolved in methanol (8 ml) and ammonium formate (900 mg, 14 mmol) and 20% palladium hydroxide on carbon (100 mg) were added and stirred at 70° C. for 1 hour under nitrogen. Reaction mixture was then cooled and filtered, the filtrate was collected and the solvent removed in vacuo. The residue was dissolved in ethyl actate (25 ml) and saturated aqueous sodium hydrogen carbonate (25 ml). Organics were separated and washed with brine (15 ml), dried (magnesium sulphate) and solvent was removed in vacuo to furnish the title compound as an off-white foam, 555 mg.

reactant | 4-{4-[4-(2-{[(2R)-2-[3,5-bis(benzyloxy)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl]amino}ethyl)phenoxy]butyl}-2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenol | 0.76 mmol, 720 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)[C@H](CNCCC1=CC=C(OCCCCC2=CC(=C(C=C2)O)[C@H](CCN(C(C)C)C(C)C)C2=CC=CC=C2)C=C1)O[Si](C)(C)C(C)(C)C | C61H80N2O5Si
reactant | ammonium formate | 15.0 mmol, 960 mg | C(=O)[O-].[NH4+]
reactant | ammonium formate | 4.75 mmol, 300 mg | C(=O)[O-].[NH4+]
reactant | ammonium formate | 14 mmol, 900 mg | C(=O)[O-].[NH4+]
solvent | methanol | 8 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 110 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide on carbon | 30 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide on carbon | 100 mg | [OH-].[OH-].[Pd+2]
product | 5-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(4-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)phenyl]ethyl}amino)ethyl]benzene-1,3-diol | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCC1=CC=C(C=C1)OCCCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)C=1C=C(C=C(C1)O)O | C47H68N2O5Si
